US07414060B2
3-(3-Cyano-phenylamino)-6-methyl-pyridine-2-carboxylic acid [1-(2-methoxy-ethyl)-1H-pyrazol-3-yl]-amide
The title compound, was prepared from 3-Amino-6-methyl-pyridine-2-carboxylic acid [1-(2-methoxy-ethyl)-1H-pyrazol-3-yl]-amide in accordance with the general method of example, step using 3-Bromobenzonitrile instead of 3-bromopyridineto yield the final compound as a light yellow solid, MS (ISP): m/e=377.5 (M+H+).

reactant | 3-Amino-6-methyl-pyridine-2-carboxylic acid [1-(2-methoxy-ethyl)-1H-pyrazol-3-yl]-amide | COCCN1N=C(C=C1)NC(=O)C1=NC(=CC=C1N)C | C13H17N5O2
reactant | 3-Bromobenzonitrile | BrC=1C=C(C#N)C=CC1 | C7H4BrN
product | 3-(3-Cyano-phenylamino)-6-methyl-pyridine-2-carboxylic acid [1-(2-methoxy-ethyl)-1H-pyrazol-3-yl]-amide | COCCN1N=C(C=C1)NC(=O)C1=NC(=CC=C1NC1=CC(=CC=C1)C#N)C | C20H20N6O2
